US08530480B2
General Procedure J: Preparation of 4-(3-bromo-1H-1,2,4-triazol-1-yl)aniline via reduction
A mixture of 3-bromo-1-(4-nitrophenyl)-1H-1,2,4-triazole (0.51 g, 1.9 mmol), SnCl2-2H2O (2.14 g, 9.5 mmol) and EtOH (4 mL) was heated at reflux for 4 h. The reaction mixture was cooled to room temperature and basified with NaOH (2M aq.) until pH 7˜9. The resulting precipitate was filtered through Celite and washed with EtOH. The EtOH filtrate was concentrated in vacuo and the crude residue was dissolved in water and extracted with EtOAc (3×). The combined organics were dried (MgSO4) and concentrated in vacuo to provide the desired product as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.28 (s, 1H), 7.40 (d, 2H), 6.79 (d, 2H), 3.90 (br s, 2H).

reactant | 3-bromo-1-(4-nitrophenyl)-1H-1,2,4-triazole | 1.9 mmol, 0.51 g | BrC1=NN(C=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H5BrN4O2
reactant | NaOH | 2M | [OH-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
product | 4-(3-bromo-1H-1,2,4-triazol-1-yl)aniline | BrC1=NN(C=N1)C1=CC=C(N)C=C1 | C8H7BrN4
